US04629737
N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride
To a solution of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride (0.63 g, diastereoisomeric ratio 92:8) in methanol was added 5 ml of a 30% aqueous solution of methylamine. This mixture was boiled under reflux for 6 hours during which time 3 further 5 ml portions of the methylamine solution were added. The solution was cooled to room temperature, a further 5 ml of methylamine solution added and the reaction mixture allowed to stand at room temperature overnight. After diluting with saturated sodium chloride solution the mixture was extracted with dichloromethane, washed with saturated sodium chloride solution, dried (magnesium sulphate), filtered and evaporated to give an oil which was converted to its hydrochloride salt by addition of ethereal hydrogen chloride. Recrystallisation from methanol-ethyl acetate gave the title compound, mp 217°-9° C., as single diastereoisomer.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride | 0.63 g | Cl.C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC
reactant | methylamine | CN | CH5N
reactant | methylamine | 5 ml | CN | CH5N
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | sodium chloride | [Cl-].[Na+]
product | N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-methoxy-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.CNC(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OC | InChI=1S/C21H27ClN2O3.ClH/c1-15(24-13-20(26-3)17-5-4-6-18(22)12-17)11-16-7-9-19(10-8-16)27-14-21(25)23-2;/h4-10,12,15,20,24H,11,13-14H2,1-3H3,(H,23,25);1H
